US08664431B2
6.7 g (35 mmol) of 4-hydroxy-benzophenone was dissolved in 100 ml methyl ethyl ketone. 4.2 g (42 mmol) triethyl amine was added and the mixture was cooled to −10° C. 5.3 g (42 mmol) 3-chloro-propionyl chloride was added drop wise, while the temperature was kept below −5° C. The reaction was allowed to continue for 30 minutes at 0° C. and 3 hours at room temperature. The precipitated salts were removed by filtration and the solvent was evaporated under reduced pressure. 3-Chloro-propionic acid 4-benzoylphenyl ester was isolated by preparative column chromatography on a Prochrom LC80 column, using n-hexane/ethylacetate 75/25 as eluent at a flow rate of 150 ml/min and Kromasil 60A 10 micron as silica. 1.2 g of 3-chloro-propionic acid 4-benzoylphenyl ester was isolated.

reactant | 4-hydroxy-benzophenone | 35 mmol, 6.7 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | triethyl amine | 42 mmol, 4.2 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-propionyl chloride | 42 mmol, 5.3 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 3-Chloro-propionic acid 4-benzoylphenyl ester | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)OC(CCCl)=O | C16H13ClO3
